US04904690
Methyl [2-(1-cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetate
[2-(1-Cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetic acid (1.42 g) and conc. sulfuric acid (0.2 ml) were dded to methanol (30 ml) and the mixture was refluxed for 3 hours. Then, water was added. The mixture was extracted with ethyl acetate and the extracted layer was washed and dried. Ethyl acetate was distilled off under reduced pressure and the residue was recrystallized from hexane-ethyl acetate to obtain the title compound, m.p. 137°-138° C., yield 72%.

reactant | [2-(1-Cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetic acid | 1.42 g | C1(=CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CC(=O)O | C17H16O4
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 30 ml | CO | CH4O
solvent | water | O | H2O
product | Methyl [2-(1-cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetate | yield 72% | C1(=CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CC(=O)OC | C18H18O4
